*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/3.30e-02[uF]/50[V]
* Murata P/N :GRM155R61H333ME14
* Property : C = 3.30e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61H333ME14 Port1 Port2
C01 Port1 N01 3.13e-08
R01 Port1 N01 1.52e+09
L02 N01 N02 2.00e-10
R03 N02 N03 3.31e-02
C04 N03 N04 2.88e-06
R04 N03 N04 1.11e+03
C05 N04 N05 6.13e-06
R05 N04 N05 6.52e+01
C06 N05 N06 4.06e-06
R06 N05 N06 1.93e+01
C07 N06 N07 3.49e-06
R07 N06 N07 2.21e+00
C08 N07 N08 2.51e-06
R08 N07 N08 3.58e-01
C09 N08 N09 1.78e-06
R09 N08 N09 5.19e-02
L10 N09 N10 1.77e-11
R10 N09 N10 1.31e-01
L11 N10 N11 5.93e-11
R11 N10 N11 1.07e-01
L12 N11 N12 2.43e-12
R12 N11 N12 2.04e-02
C13 N12 N13 5.39e-08
L13 N12 N13 1.87e-11
R13 N12 N13 2.11e-02
C14 N13 N14 6.96e-11
L14 N13 N14 3.28e-11
R14 N13 N14 7.15e-01
C15 N14 Port2 1.06e-11
L15 N14 Port2 3.31e-11
R15 N14 Port2 6.02e+00
.ENDS GRM155R61H333ME14
